US08461346B2
4-Fluoro-α-[(ethylsulfanyl)methyl]-3-hydroxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)benzeneethanol
Analogously to example 10 42 mg (0.09 mmol) 4-fluoro-α-[(ethylsulfanyl)methyl]-3-methoxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)benzeneethanol in 1.7 ml dichloromethane are treated with 0.9 ml of a 1 M solution of boron tribromide in dichloromethane at −20° C. The typical work up after 22 hours at room temperature and chromatography on silica gel (acetone in hexane 50%) yields 28 mg of the desired product.

reactant | 4-fluoro-α-[(ethylsulfanyl)methyl]-3-methoxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)benzeneethanol | FC1=C(C=C(C=C1)C(C(O)(C(F)(F)F)CSCC)NC1=C2C=CC(=NC2=CC=C1)C)OC | C23H24F4N2O2S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1.7 ml | ClCCl | CH2Cl2
product | 4-Fluoro-α-[(ethylsulfanyl)methyl]-3-hydroxy-β-[(2-methylquinolin-5-yl)amino]-α-(trifluoromethyl)benzeneethanol | 28 mg | FC1=C(C=C(C=C1)C(C(O)(C(F)(F)F)CSCC)NC1=C2C=CC(=NC2=CC=C1)C)O | C22H22F4N2O2S
